Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
Failure to thrive
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ woman with AF on Xarelto, hyperthyroidism,
dementia, recent admission for volvulus s/p exploratory
laparotomy and small bowel resection with primary anastomosis
(___) with course complicated by recurrent C. diff 
(ultimately
placed on fidaxomicin 200mg q48h and discharged on ___, who
presents with failure to thrive. 

Per patient, she had one episode of diarrhea here, but denies 
any
previous symptoms. Denies any falls. Denies any other pain or 
any
other new symptoms, states that she wishes to go home. 
Collateral
obtained from the ___ niece, who states that she has had
diarrhea for the past 3 days, profuse, watery, foul-smelling. 
She
does not report any obvious fevers or chills. She does not 
report
any nausea, vomiting, obvious abdominal pain. Patient has had C.
difficile multiple times recently, the last in ___, with
multiple admissions to rehab recently for weakness secondary to
C. difficile. She states that this is similar to her previous
episodes.

Regarding her C. difficile history, this is her fifth episode of
C. difficile.  She had 2 prior C. difficile episodes in ___, an
episode in ___, and an episode in ___.  On 
the
most recent episode in ___, she was initially on oral
vancomycin and IV metronidazole.  She was transitioned to
extended pulsed fidaxomicin per ID for ease of administration at
nursing facility. Per the ___ niece, the co-pay for the
fidaxomycin was $400. They talked with the ___ outpatient
NP, who said that since the ___ diarrhea was improved, 
that
she didn't need to complete the fidaxomycin taper. She was being
considered for a fecal occult transplant, and had an outpatient
GI appointment on ___.

The HCP states that ___ has been in a cycle of
hospitalizations to rehab back to ___, and with 
each
movement, she gets more confused. It takes her more time to get
back to her baseline. 

She denies fevers, chills, abdominal pain, diarrhea.

In the ED:
- Initial vital signs were notable for:
97.8 101 132/62 18 95% RA

- Labs were notable for:
White count 14, hemoglobin 11, potassium 3.2, UA with large
leuks, positive nitrite, greater than 182 WBCs.  Lactate 1.7,
troponin less than 0.01, digoxin less than 0.4, BNP 767

The patient was given
2 L of fluid, metronidazole, ciprofloxacin, vancomycin, digoxin,
trazodone, metoprolol, oral vancomycin,  rivaroxaban.

The patient had a CT abdomen and pelvis notable for:
1. Findings consistent with worsening moderate-to-severe
pancolitis, which given its diffuse nature is likely infectious
or inflammatory.
2. There few colonic diverticula which are not well assessed for
diverticulitis given the extensive thickening of the colonic
wall, although there is no convincing evidence of it.
3. Grossly unremarkable appearance of the small bowel 
anastomosis
with mild air-filled small-bowel dilatation proximal to the
anastomosis but no evidence of obstruction.
4. Stable 1.7 cm exophytic hypodensity in the left kidney likely
represents ahemorrhagic cyst and, if indicated, can be further
evaluated with non urgent ultrasound.
5. Stable enlarged common bile duct likely related to post
cholecystectomy changes and patient age.6. Stable 1.8 cm left
adrenal gland nodule, likely a myelolipoma.

CT Head
No acute intracranial process. Chronic changes. Sinus disease.

CXR
COPD. Mild pulmonary vascular congestion. No definite focal
consolidation.

On arrival to the floor, the patient was stating that she needs
to use the bathroom.  She states that she is in "an old
building."  She correctly states that the season is ___ and
that it is ___.  She does not know the month or year.  When
asked who the president is, she reports, "I do not want to say
because I do not want to offend anybody."

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.
 
Past Medical History:
Afib on Xarelto
Hyperthyroidism
h/o VTE - DVT, unknown when this occurred
h/o colon CA
h/o hip fracture ___ s/p repair
Recurrent Cdiff
Dementia
Closed loop bowel volvulus s/p ex lap ___

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: 97.4PO 138 / 79 78 18 96 Ra
GENERAL: Pleasant, sitting up in bed
HEENT: NCAT. PERRL, EOMI.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: CTAB
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Alert and oriented x2.  Noticed that it is ___. 
Does not know her location, or the rest of the date.  When
pressed further, she states "I do not like all of these specific
questions."

DISCHARGE PHYSICAL EXAM:
======================
VITALS: ___ 1527 Temp: 97.3 PO BP: 137/80 HR: 73 RR: 18 O2 
sat: 99% O2 delivery: RA 
GENERAL: Thin elderly woman sleeping in bed, NAD 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: CTAB
ABDOMEN: non distended, non-tender to palpation 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: Unable to assess as pt sleeping
 
Pertinent Results:
ADMISSION LABS:
==============
___ 08:10AM   GLUCOSE-111* UREA N-12 CREAT-0.6 SODIUM-142 
POTASSIUM-3.2* CHLORIDE-108 TOTAL CO2-18* ANION GAP-16
___ 08:10AM   CALCIUM-9.2 PHOSPHATE-3.2 MAGNESIUM-1.6
___ 08:10AM   TSH-0.05*
___ 08:10AM   WBC-14.0* RBC-4.43 HGB-11.1* HCT-36.6 MCV-83 
MCH-25.1* MCHC-30.3* RDW-18.6* RDWSD-55.4*
___ 08:10AM   PLT COUNT-287
___ 09:34PM URINE  HOURS-RANDOM
___ 09:34PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:34PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 09:34PM URINE  BLOOD-TR* NITRITE-POS* PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*
___ 09:34PM URINE  RBC-5* WBC->182* BACTERIA-FEW* 
YEAST-NONE EPI-<1
___ 09:34PM URINE  HYALINE-3*
___ 09:34PM URINE  WBCCLUMP-RARE*
___ 09:10PM   ___ PTT-UNABLE TO  ___
___ 07:38PM   ___ COMMENTS-GREEN TOP
___ 07:38PM   LACTATE-1.7
___ 07:30PM   GLUCOSE-93 UREA N-16 CREAT-0.6 SODIUM-135 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-18* ANION GAP-14
___ 07:30PM   estGFR-Using this
___ 07:30PM   ALT(SGPT)-34 AST(SGOT)-46* ALK PHOS-59 TOT 
BILI-0.4
___ 07:30PM   LIPASE-24
___ 07:30PM   cTropnT-<0.01
___ 07:30PM   proBNP-767*
___ 07:30PM   ALBUMIN-3.4* CALCIUM-9.6 PHOSPHATE-3.4 
MAGNESIUM-1.6
___ 07:30PM   DIGOXIN-<0.4*
___ 07:30PM   DIGOXIN-<0.4*
___ 07:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 07:30PM   WBC-14.4* RBC-4.47 HGB-11.1* HCT-36.5 MCV-82 
MCH-24.8* MCHC-30.4* RDW-18.6* RDWSD-55.0*
___ 07:30PM   NEUTS-80.4* LYMPHS-9.7* MONOS-8.9 EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-11.59* AbsLymp-1.40 AbsMono-1.29* 
AbsEos-0.02* AbsBaso-0.04
___ 07:30PM   PLT COUNT-254

INTERVAL LABS:
===============

___ 06:45AM BLOOD TSH-0.04*
___ 08:10AM BLOOD TSH-0.05*
___ 06:45AM BLOOD T4-7.8 T3-116 Free T4-1.8*
___ 06:45AM BLOOD Free T4-1.9*
___ 03:35PM BLOOD CMV VL-DETECTED, 

DISCHARGE LABS:
===============
___ 06:45AM BLOOD WBC-7.4 RBC-3.87* Hgb-9.8* Hct-32.0* 
MCV-83 MCH-25.3* MCHC-30.6* RDW-18.6* RDWSD-56.1* Plt ___
___ 06:45AM BLOOD UreaN-8 Creat-0.4 Na-142 K-3.7 Cl-115* 
HCO3-20* AnGap-7*

IMAGING:
========

___ The patient had a CT abdomen and pelvis notable for:
1. Findings consistent with worsening moderate-to-severe
pancolitis, which given its diffuse nature is likely infectious
or inflammatory.
2. There few colonic diverticula which are not well assessed for
diverticulitis given the extensive thickening of the colonic
wall, although there is no convincing evidence of it.
3. Grossly unremarkable appearance of the small bowel 
anastomosis
with mild air-filled small-bowel dilatation proximal to the
anastomosis but no evidence of obstruction.
4. Stable 1.7 cm exophytic hypodensity in the left kidney likely
represents ahemorrhagic cyst and, if indicated, can be further
evaluated with non urgent ultrasound.
5. Stable enlarged common bile duct likely related to post
cholecystectomy changes and patient age.6. Stable 1.8 cm left
adrenal gland nodule, likely a myelolipoma.

___ CT Head
No acute intracranial process. Chronic changes. Sinus disease.

___ CXR
COPD. Mild pulmonary vascular congestion. No definite focal
consolidation.

MICROBIOLOGY:
=============
__________________________________________________________
___ 1:50 am BLOOD CULTURE      FFROM L HAND # 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 1:45 am BLOOD CULTURE      FROM LAC LINE # 1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:34 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 
__________________________________________________________
___ 9:35 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
__________________________________________________________
___ 9:35 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      POSITIVE.              (Reference Range-Negative). 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 
         Reported to and read back by ___ @ 0558 ON 
___ -
         ___. 

   C. difficile Toxin antigen assay (Final ___: 
      NEGATIVE.              (Reference Range-Negative).  
PERFORMED BY EIA. 
         This result indicates a low likelihood of C. difficile 
infection
         (CDI). 

 
Brief Hospital Course:
TRANSITIONAL ISSUES: 
==================
#Cdiff
[] Complete a 10 day course of PO vanco 500 mg PO q6h 
(___)
[] After the 10 day PO vancomycin course, please complete 10 day 
course of fidaxomicin 200mg BID. 
[] If fidaxomicin 10 day course is not an option due to copay; 
the recommendation is to plan a PO vanco taper following the 
vanco course completion date of ___: 
-125 mg orally four times daily for 10 days, then 
-125 mg orally twice daily for 7 days, then
-125 mg orally once daily for 7 days, then 
-125 mg orally every 2 or 3 days for 2 to 8 weeks
[] f/u GI for fecal transplant

#Hyperthroid
[] TFT's in 2 weeks [on ___, please fax results to ___ 
Endocrinology, Dr. ___ ___. 
[] Endocrine followup arranged for ___ at 3:00pm
[] Risks of MMI therapy include agranulocytosis, manifesting in 
fever and infections,particularly URI's. Stop the medication and 
measure WBC in acute illness. MMI can rarely cause liver 
dysfunction, manifesting in RUQ pain and jaundice as well as 
elevated LFT's. She should NOT receive iodinated contrast 
material should the need for a CT study present itself.

#Imaging
[]Stable 1.7 cm exophytic hypodensity in the left kidney likely
represents a hemorrhagic cyst and, if indicated, can be further
evaluated with non urgent ultrasound.

Ms. ___ is an ___ woman with AF on Xarelto, hyperthyroidism,
dementia, recent admission for volvulus s/p exploratory
laparotomy and small bowel resection with primary anastomosis
(___) with course complicated by recurrent C. diff 
(ultimately
placed on fidaxomicin 200mg q48h and discharged on ___, who
presented with failure to thrive. She was found to have 
recurrent c diff. She underwent treatment for cdiff and her 
diarrhea improved. She should continue the treatment and 
follow-up with outpatient GI for evaluation of fecal transplant. 


# C. Diff
# Pancolitis
# Leukocytosis
Patient presents with worsening watery diarrhea, pancolitis on 
CT scan, leukocytosis. Concerning for recurrent C. difficile 
infection. Patient was on fidaxomicin taper however pt did not 
complete due to cost and scheduled for stool transplant 
evaluation on ___. Pt started on PO Vancomycin 500 QID and 
IV Flagyl 500 Q8H. IV flagyl stopped on discharge. Stool culture 
NEGATIVE. Cdiff PCR positive but toxin Ag negative. CMV VL 
positive but low. ID consulted given recurrence of Cdiff, again 
recommended fidaxomicin. ID recommended flex sig with biopsy 
given positive CMV viral load. Given that the diarrhea was 
resolving, there was low concern for active CMV causing the 
infection. ID recommended 10 days of PO vancomycin (to ___ 
followed by 10 days of fidaxomycin 200mg BID. 
If fidaxomicin 10 day course is not an option due to copay; the 
recommendation is to plan a PO vanco taper following the vanco 
course completion date of ___ mg orally four times daily for 10 days, then 
-125 mg orally twice daily for 7 days, then
-125 mg orally once daily for 7 days, then 
-125 mg orally every 2 or 3 days for 2 to 8 weeks 

# Hyperthyroidism
Patient was on PTU in the past, but it was discontinued as 
patient had a total thyroidectomy. Free T4 was elevated. 
Endocrinology was consulted and recommened starting MMI 5mg po 
daily. Will need TFT's in 2 weeks [on ___ endo with f/u 
results. Endocrine followup arranged for ___ at 3:00pm

#Dementia w/behavioral disturbance: Continue home trazodone QID. 
Maintained on delirium precautions. Initially required both 
chemical and physical restraints due to delirium. However 
delirium improved and restraints were discontinued. Physical 
therapy recommended rehab. 

# Asymptomatic Pyuria
Consistent with U/A on prior hospitalization (with prior culture 
demonstrating GNRs), however pt denies all urinary symptoms at 
present. UCx negative, no abx were started. 

# Atrial Fibrillation: Continued home Digoxin, Metoprolol, and 
rivaroxaban

#CODE: DNR/DNI per MOLST in OMR, confirmed with HCP. 
#CONTACT: ___ (Niece) Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
2. Digoxin 0.125 mg PO EVERY OTHER DAY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Metoprolol Tartrate 25 mg PO BID 
5. Rivaroxaban 15 mg PO DINNER 
6. TraZODone 25 mg PO QID 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Ascorbic Acid ___ mg PO DAILY 
9. diclofenac sodium 1 % topical Q12H:PRN L knee pain 

 
Discharge Medications:
1.  Methimazole 5 mg PO DAILY  
2.  Vancomycin Oral Liquid ___ mg PO QID  
3.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  diclofenac sodium 1 % topical Q12H:PRN L knee pain  
6.  Digoxin 0.125 mg PO EVERY OTHER DAY  
7.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
8.  Metoprolol Tartrate 25 mg PO BID  
9.  Rivaroxaban 15 mg PO DINNER  
10.  TraZODone 25 mg PO QID  
11. HELD- Ferrous Sulfate 325 mg PO DAILY  This medication was 
held. Do not restart Ferrous Sulfate until you are told to do so 
by your primary care doctor. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS:
=================
recurrent C diff

SECONDARY DIAGNOSIS:
===================
Dementia
hyperthryoidism
Afib

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  
 
It was a privilege caring for you at ___.  
Please see below for more information on your hospitalization. 
 
WHY WERE YOU ADMITTED TO THE HOSPITAL?  
- You were having loose stool
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
- We treated you for a C. Diff infection with oral and IV 
antibiotics
- Our infectious disease team evaluated you to help us with your 
treatment 
- We had our physical therapists evaluate you and they 
recommended that you continue to recover at rehab to improve 
your physical strength
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below, particularly the 
endocrinology follow-up appointment. 
- Seek medical attention if you have new or concerning symptoms 
or you develop confusion, abdominal distention, loose stool, 
blood in your stool or fever/chills. 

It was a pleasure taking part in your care here at ___!  
We wish you all the best!  
- Your ___ Care Team  
 
Followup Instructions:
___